US07355049B2
3-(4′-Chloro-biphenyl-4-yloxymethyl)-benzoic acid was prepared using general procedure A from 4-chloro-4′-hydroxybiphenyl (available from TCI America, Portland, Oreg.) and 3-(bromomethyl)benzoic acid methyl ester (available from Lancaster Synthesis Ltd., Morcambe, Lancashire, UK). Yield: 80 mg. Mass spectrum (ES) MH+=339.

reactant | 4-chloro-4′-hydroxybiphenyl | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9ClO
reactant | 3-(bromomethyl)benzoic acid methyl ester | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-(4′-Chloro-biphenyl-4-yloxymethyl)-benzoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C20H15ClO3
